US08624034B2
Step C) (2R)-4-[4-(4-Chloro-2-fluorophenyl)-5-fluoro-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
Water (312 mL) and 1 N aq HCl (23.9 mL, 23.9 mmol) were added to a solution of (2R)-4-[4-(4-chloro-2-fluorophenyl)-5-fluoro-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (74.7 g, 144.1 mmol) in ethanol (126 mL). The reaction was heated to 70° C. and stirred at this temperature overnight. The reaction was allowed to cool and the solid was collected via filtration and washed with water until the filtrate had a pH of ˜5. The solid was dried under vacuum to afford the title compound as a white solid (46.48 g, 74%). MS (LCMS) m/z 435.6 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.56 (s, 3H) 2.09-2.21 (m, 1H) 2.44 (d, J=5.27 Hz, 1H) 3.10 (s, 3H) 3.77 (td, J=11.90, 5.07 Hz, 1H) 4.04 (td, J=11.95, 4.98 Hz, 1H) 6.51 (d, J=7.02 Hz, 1H) 7.44 (dd, J=8.29, 2.05 Hz, 1H) 7.50-7.56 (m, 1H) 7.62 (dd, J=9.95, 1.95 Hz, 1H) 8.04 (d, J=5.85 Hz, 1H) 9.22 (s, 1H) 11.05 (s, 1H).

reactant | Water | 312 mL | O | H2O
reactant | HCl | 23.9 mmol, 1 N, 23.9 mL | Cl | ClH
reactant | (2R)-4-[4-(4-chloro-2-fluorophenyl)-5-fluoro-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 144.1 mmol, 74.7 g | ClC1=CC(=C(C=C1)C1=CC(N(C=C1F)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)F | C22H25ClF2N2O6S
solvent | ethanol | 126 mL | C(C)O | C2H6O
product | (2R)-4-[4-(4-Chloro-2-fluorophenyl)-5-fluoro-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 46.48 g, 74% | ClC1=CC(=C(C=C1)C1=CC(N(C=C1F)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O)F | C17H17ClF2N2O5S
